US07411072B2
Separately, convert each isomer to the hydroxyl derivative by using the following procedure: Mix 11-(3-bromo-benzylidene)-8-chloro-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine (500 mg, (1.26 mmol),pinacol diborane (416 mg, 1.64 mmol), KOAc (375 mg, 3.8 mmol) in DMSO (10 mL). Sparge with nitrogen for 10 minutes and then add Pd(dppf)Cl2 (160 mg, 0.2 mmol) and heat at 80° C. for 4 h. Shake with water and ethyl acetate. Dry the organic layer (MgSO4) and concentrate to give 650 mg crude product. Purify by column chromatography (15% ethyl acetate/hexane) to give 310 mg (56%) 8-chloro-11-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzylidene]-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine. MS (ES) 444 (M+1). Purify by HPLC is 89%.

reactant | 11-(3-bromo-benzylidene)-8-chloro-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | BrC=1C=C(C=C2C3=C(CCC=4C2=NC=CC4)C=C(C=C3)Cl)C=CC1 | C21H15BrClN
reactant | pinacol diborane | 1.26 mmol, 500 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 3.8 mmol, 375 mg | CC(=O)[O-].[K+]
reactant | water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.2 mmol, 160 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-chloro-11-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzylidene]-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 310 mg, 56% | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=CC2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C)C1 | C27H27BClNO2
